US07622508B2
a. Preparation of 2-(2,6-difluorobenzylamino)ethanol
A mixture of 2,6-difluorobenzyl bromide (3.7 g, 17.8 mmol) and ethanolamine (6.46 mL, 107 mmol) in ethanol (18 mL) was heated at 75° C. for 16 h. The reaction mixture was concentrated and the resulting residue was diluted with dichloromethane (50 mL). The organic layer was partitioned with water (75 mL) and the aqueous layer extracted with dichloromethane (50 mL). Combined organic layers were dried over magnesium sulfate, filtered, and concentrated to give the title compound as a yellow solid (3.25 g). (m/z): [M+H]+ calcd for C9H11F2NO, 188.08; found, 188.1. 1H NMR (d6-DMSO, 300 MHz) δ (ppm): 7.37-7.34 (m, 1H), 7.10-7.05 (m, 2H), 4.47 (t, J=5.4 Hz, 1H), 3.75 (s, 2H), 3.42 (q, J=5.5 Hz, 2H), 2.25 (t, J=5.7 Hz, 2H), 1.82 (br s, 1H).

reactant | 2,6-difluorobenzyl bromide | 17.8 mmol, 3.7 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | ethanolamine | 107 mmol, 6.46 mL | C(O)CN | C2H7NO
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 2-(2,6-difluorobenzylamino)ethanol | 3.25 g | FC1=C(CNCCO)C(=CC=C1)F | C9H11F2NO
